US08685969B2
9. 7-(2-Hydroxypropan-2-yl)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a solution of 7-acetyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (45 mg, 0.092 mmol) in tetrahydrofuran (10 mL) at 0° C. was added methylmagnesium bromide (0.154 mL, 0.462 mmol). The mixture was stirred at room temperature for 30 min. Additional methylmagnesium bromide (0.100 mL, 0.300 mmol) was added at 0° C., and the mixture was stirred at room temperature for another 30 min. The reaction was quenched with water (10 mL) and the mixture was extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (25 mL) and dried over anhydrous MgSO4. The organic solution was concentrated under vacuum, and the residue was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×35 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (20.9 mg, 0.041 mmol, 44.1% yield) as a pale yellow solid. LCMS (M+H)+=504.0. 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropisomer) δ: 11.74 (s, 1H), 8.44 (s, 1H), 8.23 (s, 1H), 8.30 (s, 1H), 7.98 (m, 1H), 7.92 (m, 1H), 7.80 (m, 1H), 7.75 (m, 1H), 7.58 (m, 1H), 7.24 (m, 1H), 5.12 (s, 1H), 1.83 (s, 3H), 1.50 (s, 6H).

reactant | 7-acetyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.092 mmol, 45 mg | C(C)(=O)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C29H21N5O3
reactant | methylmagnesium bromide | 0.462 mmol, 0.154 mL | C[Mg]Br
reactant | methylmagnesium bromide | 0.300 mmol, 0.100 mL | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-(2-Hydroxypropan-2-yl)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.041 mmol, 20.9 mg, 44.1% yield | OC(C)(C)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C30H25N5O3
